US04429140
A semisolid reaction mixture is obtained in the same manner as in Example 8 with the exception of using 26.8 g of sorbitol, 39.3 g of p-ethylbenzaldehyde, 1.2 g of dodecylbenzenesulfonic acid, 5.0 ml of N,N-dimethlformamide and 80 ml of nitrobenzene. The mixture is thereafter similarly treated to give di-(p-ethylbenzylidene)sorbitol in a yield of 96% with a purity of 95%. The reaction time is 2.5 hours.

reactant | sorbitol | 26.8 g | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | p-ethylbenzaldehyde | 39.3 g | C(C)C1=CC=C(C=O)C=C1 | C9H10O
reactant | dodecylbenzenesulfonic acid | 1.2 g | C(CCCCCCCCCCC)C1=C(C=CC=C1)S(=O)(=O)O | C18H30O3S
reactant | nitrobenzene | 80 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | N,N-dimethlformamide | 5.0 ml | CN(C=O)C | C3H7NO
product | di-(p-ethylbenzylidene)sorbitol | yield of 96% | C(C)C1=CC=C(C=C([C@H]([C@H]([C@@H]([C@H](C(O)=CC2=CC=C(C=C2)CC)O)O)O)O)O)C=C1 | C24H30O6
